US08044211B2
Intermediate 4G 6-Amino-1-{4-[(5-chloropentyl)oxy]-2,6-difluorophenyl}-5-(2,4-difluoro-benzoyl)pyridin-2(1H)-one
To a solution of 6-amino-5-(2,4-difluorobenzoyl)-1-(2,6-difluoro-4-hydroxyphenyl)-pyridin-2(1H)-one (300 mg, 0.79 mmol) in acetone (6 ml) under an atmosphere of nitrogen was added 1-bromo-5-chloropentane (0.115 ml, 0.87 mmol, 1.1 eq), sodium iodide (238 mg, 1.59 mmol, 2 eq) and potassium carbonate (438 mg, 3.17 mmol, 4 eq). The mixture was heated at 70° C. for 16 hours, before being allowed to cool to room temperature and partitioned between EtOAc (50 ml) and water (50 ml). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. Purification by column chromatography (30% EtOAc in heptane) afforded a 3:2 mixture of the title compound and 6-amino-1-{4-[(5-iodopentyl)oxy]-2,6-difluorophenyl}-5-(2,4-difluorobenzoyl)pyridin-2(1H)-one (142 mg) which was used without further purification.

reactant | 6-amino-5-(2,4-difluorobenzoyl)-1-(2,6-difluoro-4-hydroxyphenyl)-pyridin-2(1H)-one | 0.79 mmol, 300 mg | NC1=C(C=CC(N1C1=C(C=C(C=C1F)O)F)=O)C(C1=C(C=C(C=C1)F)F)=O | C18H10F4N2O3
reactant | 1-bromo-5-chloropentane | 0.87 mmol, 0.115 ml, 1.1 eq | BrCCCCCCl | C5H10BrCl
reactant | sodium iodide | 1.59 mmol, 238 mg, 2 eq | [I-].[Na+]
reactant | potassium carbonate | 3.17 mmol, 438 mg, 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 6-amino-1-{4-[(5-iodopentyl)oxy]-2,6-difluorophenyl}-5-(2,4-difluorobenzoyl)pyridin-2(1H)-one | 142 mg | NC1=C(C=CC(N1C1=C(C=C(C=C1F)OCCCCCI)F)=O)C(C1=C(C=C(C=C1)F)F)=O | C23H19F4IN2O3
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 6-Amino-1-{4-[(5-chloropentyl)oxy]-2,6-difluorophenyl}-5-(2,4-difluoro-benzoyl)pyridin-2(1H)-one | NC1=C(C=CC(N1C1=C(C=C(C=C1F)OCCCCCCl)F)=O)C(C1=C(C=C(C=C1)F)F)=O | C23H19ClF4N2O3
